US04271163
18 ml (0.23 mole) of dimethylformamide are added dropwise in the course of a few minutes, whilst stirring, to 120 g (0.90 mole) of anhydrous aluminum chloride, resulting in a strongly exothermic reaction. 8.2 g (89.0 millimoles) of toluene are then added dropwise at 60°-70° C. Thereafter, 10.0 g (89.2 millimoles) of 1,2-cyclopropanedicarboxylic acid anhydride are added, a little at a time, at the same temperature, and the mixture is stirred for a further hour at 70° C. The melt is then introduced into 1 kg of ice. The solid which has precipitated is filtered off, washed with water and dried under reduced pressure at 50° C. 16.3 g (90% of theory) of cis-2-(p-toluoyl)-cyclopropanecarboxylic acid are obtained as colorless crystals, of melting point 165°-166° C. after recrystallization from ethyl acetate.

reactant | dimethylformamide | 0.23 mole, 18 ml | CN(C=O)C | C3H7NO
reactant | aluminum chloride | 0.90 mole, 120 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | toluene | 89.0 millimoles, 8.2 g | C1(=CC=CC=C1)C | C7H8
reactant | 1,2-cyclopropanedicarboxylic acid anhydride | 89.2 millimoles, 10.0 g | C12C(C1)C(=O)OC2=O | C5H4O3
product | cis-2-(p-toluoyl)-cyclopropanecarboxylic acid | 16.3 g, 90% | C1(=CC=C(C=C1)C(=O)[C@@H]1[C@@H](C1)C(=O)O)C | C12H12O3
